US07829560B2
(4-Aminonaphthalen-1-yloxy)-acetonitrile (1.068 g, 5.4 mmol), 3-fluoro-5-(4-methylpiperidin-1-yl)-benzoic acid (1.27 g, 5.4 mmol), diisopropylethylamine (3 ml) and HBTU (2.45 g, 6.5 mmol) are stirred at room temperature in anhydrous dimethylformamide (20 ml) for 1 day. The mixture is then poured into ethyl acetate (200 ml) and washed with water (2×200 ml). The organic layer is then dried over anhydrous sodium sulfate and evaporated to dryness. The residue is purified by column chromatography on silica gel eluted with 25-30% ethyl acetate in hexanes to give a pale purple solid. This is then recrystallized from ethyl acetate/methanol to give N-(4-cyanomethoxynaphthalen-1-yl)-3-fluoro-5-(4-methylpiperidin-1-yl)-benzamide as a pale purple solid (303 mg). 1H NMR 300 MHz (CDCl3) 8.27 (d, 1H, J=7.5 Hz), 7.94 (s, 1H), 7.86 (t, 2H, J=9.6 Hz), 7.6 (m, 2H), 7.3 (s, 1H), 6.97 (m, 2H), 6.77 (d, 1H, J=11.4 Hz), 5.0 (s, 1H), 3.77 (m, 2H), 2.83 (m, 2H), 1.75 (m, 2H), 1.25-1.4 (m, 3H), 1.0 (d, 3H).

reactant | (4-Aminonaphthalen-1-yloxy)-acetonitrile | 5.4 mmol, 1.068 g | NC1=CC=C(C2=CC=CC=C12)OCC#N | C12H10N2O
reactant | 3-fluoro-5-(4-methylpiperidin-1-yl)-benzoic acid | 5.4 mmol, 1.27 g | FC=1C=C(C(=O)O)C=C(C1)N1CCC(CC1)C | C13H16FNO2
reactant | diisopropylethylamine | 3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 6.5 mmol, 2.45 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-cyanomethoxynaphthalen-1-yl)-3-fluoro-5-(4-methylpiperidin-1-yl)-benzamide | 303 mg | C(#N)COC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCC(CC1)C)F)=O | C25H24FN3O2
